US06479487B1
1-(2-Thiopheneyl)methyl-4-piperidone is prepared from 4-piperidone and 2-(chloromethyl)thiophene essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 2-(chloromethyl)thiophene | ClCC=1SC=CC1 | C5H5ClS
product | 1-(2-Thiopheneyl)methyl-4-piperidone | S1C(=CC=C1)CN1CCC(CC1)=O | C10H13NOS
